* Schematics Netlist *



V_V4         POS 0 20V
V_V5         0 NEG 20V
C_C2         $N_0001 $N_0002  1u  
X_U3         0 $N_0001 POS NEG $N_0002 uA741
X_U2         0 $N_0005 POS NEG $N_0006 uA741
R_R9         $N_0010 $N_0009  10k  
X_U4         0 $N_0010 POS NEG $N_0009 uA741
R_R10         $N_0009 $N_0013  10k  
R_R11         $N_0013 output  10k  
C_C4         output 0  1u  
C_C3         $N_0013 0  1u  
X_U1         0 $N_0014 POS NEG $N_0015 uA741
R_R2         ERROR $N_0014  1k  
R_R1         $N_0014 $N_0015  1k  
R_R5         ERROR $N_0001  100k  
R_R4         $N_0018 $N_0005  200  
C_C1         ERROR $N_0018  0.1u  
R_R3         $N_0005 $N_0006  10k  
R_R26         $N_0020 $N_0019  10k  
R_R27         output $N_0021  10k  
R_R28         $N_0019 0  10k  
X_U8         $N_0019 $N_0021 POS NEG ERROR uA741
V_Set_point         $N_0020 0  
+PULSE 0 1 10m 1n 1n 100m 200m
R_R29         $N_0021 ERROR  10k  
R_R8         $N_0002 $N_0010  100  
R_R7         $N_0006 $N_0010  100  
R_R6         $N_0015 $N_0010  100  
